US04760163
using isopropyl 2-chloro-4-fluoro-5-ureidobenzoate and ethyl cyclopentanone-2-carboxylate there is obtained isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-benzoate, m.p. 146°-149° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-ureidobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)N | C11H12ClFN2O3
reactant | ethyl cyclopentanone-2-carboxylate | CCOC(=O)C1CCCC1=O | C8H12O3
product | isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC1=C(CCC1)C(=O)OCC | C19H22ClFN2O5
